Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5]#[N:6])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9]>>[C:1]1([H:7])([H:8])[C:2]([C:3]([H:11])([H:12])[H:13])([H:10])[C:4]1([H:14])[H:15].[C:5](#[N:6])[H:9],88.26813487768852
[C:1]([C:2]([C:5](=[O:6])[C:7]([H:16])([H:17])[H:18])([H:11])[H:12])([H:8])([H:9])[H:10].[C:3](=[N:4][H:15])([H:13])[H:14]>>[C:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[C:7]([H:16])([H:17])[H:18])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],66.8146231193396
[C:1]([N:2]([C+:3]([O:4][H:11])[C:5]#[C-:6])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N:2]([C:3](=[O:4])[C:5]#[C:6][H:11])[H:10])([H:7])([H:8])[H:9],26.395855204962515
[C:1]([C:2]([H:9])([H:10])[H:11])([H:6])([H:7])[H:8].[C:3](=[C:4]=[O:5])([H:12])[H:13]>>[C:1]([C:2]([C:3]([C:4](=[O:5])[H:13])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8],64.35945701907998
[O:1]=[C:2]1[C:3]([H:7])([H:8])[N:4]2[C:5]([H:9])([H:10])[C@@:6]12[H:11]>>[O-:1][C:2](=[C+:3][H:7])[C@@:6]1([H:11])[N:4]([H:8])[C:5]1([H:9])[H:10],64.59026707855139
[C:1]([C:2](=[O:3])[C:4](=[C:5])[H:9])([H:6])([H:7])[H:8]>>[C:1]([C:2](=[O:3])[C:4]#[C:5][H:9])([H:6])([H:7])[H:8],3.587086423085296
[C:1]([C:2]1=[C:3]([H:11])/[C:6](=[N:7]/[H:16])[O:5][C:4]1([H:14])[H:15])([H:8])([H:9])[H:10].[H:12][H:13]>>[C:1]([C:2]1([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[O:5]/[C:6]1=[N:7]\[H:16])([H:8])([H:9])[H:10],97.2176198354682
[C:1]([C:2]([N:3](/[C:4](=[N:5]/[H:14])[C:6]#[N:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:6]#[N:7])([H:11])[H:12])([H:8])([H:9])[H:10].[N:3](=[C:4]=[N:5][H:14])[H:13],88.22479169584619
[C:1]([N:2]1[C:3]([H:12])([H:13])[C@:4]1([O:5][H:11])[O:6][C:7]([H:14])([H:15])[H:16])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C:3]([C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10],22.38005541994579
[N:1]1([H:8])[C@@:2]2([O:3][C:4]([H:9])([H:10])/[C:5]2=[N:7]/[H:13])[C:6]1([H:11])[H:12]>>[N:1](=[C:2]1\[O:3][C:4]([H:9])([H:10])[C@@:5]12[C:6]([H:11])([H:12])[N:7]2[H:13])\[H:8],71.3870626105689
[N:1]([C:2](=[O:3])[C:4]([O:5]/[C:6](=[N:7]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9]>>[C:2](=[O:3])=[C:4]([H:10])[H:11].[N:1]([N:7]([C:6](=[O:5])[H:12])[H:13])([H:8])[H:9],68.56186987934589
[C:1]1([H:7])([H:8])[C:2]([H:9])=[C:3]([H:10])[C@@:4]2([H:11])[N:5]([H:12])[C@@:6]12[H:13]>>[C:1]1([H:7])([H:8])[C-:2]([H:9])[C:3]([H:10])([H:11])[C+:4]2[N:5]([H:12])[C@@:6]12[H:13],93.8797881043743
[C-:1]([C:2]([C+:3]([O:4][H:14])[H:13])([H:11])[H:12])([H:8])[H:9].[C:5]([C:6]#[N:7])([H:10])([H:15])[H:16]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6]#[N:7])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],2.000500612464208
[n:1]1([H:6])[c:2]([H:7])[n:3][c:4]([H:8])[n:5]1>>[N:1]([N:5]=[C:4]([N+:3]#[C:2][H:7])[H:8])[H:6],99.5054525298967
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([C@@:5]([C:6]([H:18])([H:19])[H:20])([O:7][H:21])[H:17])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([C:6]([C:5](=[O:7])[H:17])([H:18])[H:19])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10].[H:20][H:21],86.5983014297241
[C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([C:6]#[N:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2](/[C:3](=[C:4](/[C:5]([H:16])([H:17])[H:18])[H:15])[C:6]#[N:7])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][H:14],97.2443226013965
[C+:4]([O:5][H:14])=[C:6]([O-:7])[H:15].[C:1]([C:2]([O:3][H:12])([H:11])[H:13])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:12])([C@@:4]([O:5][H:14])([C:6](=[O:7])[H:15])[H:13])[H:11])([H:8])([H:9])[H:10],18.191971801130713
[C:1]([C@@:2]([O:3][H:12])([C:4]([O:5][C:6](=[O:7])[H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[O:3])[C:4]([H:11])([H:13])[H:14])([H:8])([H:9])[H:10].[O:5]=[C:6]([O:7][H:12])[H:15],50.49128286462089
[N:1]([c:2]1[n:3][n:4]([H:9])[c:5]([H:10])[n:6]1)([H:7])[H:8]>>[N:1]([N+:6]1=[C:2]=[N:3][N:4]([H:9])[C-:5]1[H:10])([H:7])[H:8],128.358860320128
[O:1]=[C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[C:6](=[O:7])[H:12])[H:8]>>[O:1]1[C:2]([H:8])=[C:3]([H:9])[N:5]2[C:4]([H:10])([H:11])[O:7][C@@:6]12[H:12],48.9969128952316
[C:1]1([H:8])([H:9])[C@:2]([C:3]([C:4]#[N:5])([H:12])[H:13])([H:11])[C:6][C:7]1([H:10])[H:14]>>[C:1]([C@@:2]([C:3]([C:4]#[N:5])([H:12])[H:13])([C:6]#[C:7][H:14])[H:11])([H:8])([H:9])[H:10],37.78706904093171
[C:1](/[N:2]=[C:3](/[N:4]([C:5](=[O:6])[H:12])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C-:5]#[O+:6].[C:1](=[N:2]/[C:3](=[N:4]/[H:11])[H:10])([H:8])[H:9].[H:7][H:12],74.3931886279816
[O:1]=[C:2](/[C:6](=[C:5]1\[O:3][C:4]1([H:8])[H:9])[H:10])[H:7]>>[O:1]=[C:2]([O:3][C:4]([C:5]#[C:6][H:10])([H:8])[H:9])[H:7],56.79959134307894
[C:1]1([H:6])([H:7])[C:2]([H:9])([H:10])[N:3]1[H:11].[C:4](=[O:5])([H:8])[H:12]>>[C:1]([C:2]([N:3]([C:4](=[O:5])[H:12])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8],50.01640821677521
